US07060827B2
In a manner similar to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and benzylamine were reacted to yield N2,N4-bis(benzyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.69 (bs, 1H), 7.35–7.24 (m, 10H), 5.63 (bs, 1H), 5.27 (bs, 1H), 4.61 (d, 2H, J=6.0 Hz), 4.55 (d, 2H, J=6.0 Hz); 19F NMR (CDCl3): −48580; LCMS: ret. time: 23.73 min.; purity: 100%; MS (m/e): 309 (MH+).

reactant | N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C16H13FN4O2
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N2,N4-bis(benzyl)-5-fluoro-2,4-pyrimidinediamine | C(C1=CC=CC=C1)NC1=NC=C(C(=N1)NCC1=CC=CC=C1)F | C18H17FN4
